US06528525B1
(b) Ethyl 2-(4-cyanophenoxy)-3-(4-hydroxyphenyl)propionate
In a similar manner to that described in Reference example 1(d), a reaction was carried out using ethyl 3-(4-benzyloxyphenyl)-2-(4-cyanophenoxy)propionate (376 mg), which is the product of Reference example 41(a), and palladium on carbon (5%, 65 mg) and the reaction mixture was treated to afford the title compound (293 mg) as a colorless oil.

reactant | ethyl 3-(4-benzyloxyphenyl)-2-(4-cyanophenoxy)propionate | 376 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C#N | C25H23NO4
catalyst | palladium on carbon | 65 mg | [Pd] | Pd
product | Ethyl 2-(4-cyanophenoxy)-3-(4-hydroxyphenyl)propionate | 293 mg | C(#N)C1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)O)C=C1 | C18H17NO4
